US06432993B1
(36-2b) 5-{4-[1-Methyl-6-(4-trifluoromethylphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
In a similar manner to that described in Example (2-2b), a reaction was carried out using 5-{4-[1-methyl-6-(4-trifluoromethylphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (0.58 g) and 4N hydrogen chloride/ethyl acetate (20 ml) and the reaction mixture was purified to give the title compound (0.55 g).

reactant | 5-{4-[1-methyl-6-(4-trifluoromethylphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.58 g | CN1C(=NC2=C1C=C(C=C2)OC2=CC=C(C=C2)C(F)(F)F)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C26H20F3N3O4S
reactant | hydrogen chloride ethyl acetate | 4N, 20 ml | Cl.C(C)(=O)OCC
product | 5-{4-[1-Methyl-6-(4-trifluoromethylphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 0.55 g | Cl.CN1C(=NC2=C1C=C(C=C2)OC2=CC=C(C=C2)C(F)(F)F)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C26H20F3N3O4S.ClH/c1-32-21-13-19(36-18-8-4-16(5-9-18)26(27,28)29)10-11-20(21)30-23(32)14-35-17-6-2-15(3-7-17)12-22-24(33)31-25(34)37-22;/h2-11,13,22H,12,14H2,1H3,(H,31,33,34);1H
